US08791132B2
To a solution of 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethyl methanesulfonate (900 mg, 2.18 mmol) in DMF (10 mL) was added sodium azide (212.5 mg, 3.2 mmol) and the reaction mixture was stirred at 100° C. for 1 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield 5-(2-azido-2-(pyridin-4-yl)ethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (650 mg). The resulting racemate was purified and resolved by chiral preparative HPLC. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.8 (d, 2H), 8.0 (d, 2H), 7.31 (d, 1H), 7.3 (s, 1H), 7.04 (d, 1H), 5.45 (m, 1H), 4.7 (d, 1H), 4.59 (t, 1H), 4.4 (m, 2H), 3.9 (d, 1H), 3.6 (m, 1H), 3.4 (m, 1H), 3.2 (m, 1H), 3.1 (s, 3H), 2.4 (s, 3H).

reactant | 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethyl methanesulfonate | 2.18 mmol, 900 mg | CS(=O)(=O)OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2 | C21H25N3O3S
reactant | sodium azide | 3.2 mmol, 212.5 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-azido-2-(pyridin-4-yl)ethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 650 mg | N(=[N+]=[N-])C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2 | C20H22N6
